US04067723
A solution of furfuraldehyde (288 g.) in diethyl ether (400 ml.) was added over 30 minutes to a stirred solution of phenyl magnesium bromide [prepared from bromobenzene (314 g.) and magnesium (48 g.)] in diethyl ether (1400 ml.) at -25° C. The cooling bath was removed and the mixture was allowed to attain 10° C. over 30 minutes. The mixture was recooled to 0° C. and saturated aqueous ammonium chloride solution was added at that temperature. The mixture was diluted with water (2 liters) and the organic phase was separated. The aqueous phase was filtered and extracted with diethyl ether (3 × 200 ml.) and the combined etheral solutions were dried over sodium sulphate, filtered and evaporated to dryness. The resulting pale red oil was distilled to give (±) 2-(α-hydroxybenzyl)furan (240 g.), b.p. 110°-130° C./0.05 mm.Hg.

reactant | furfuraldehyde | 288 g | C(C1=CC=CO1)=O | C5H4O2
reactant | phenyl magnesium bromide | 314 g | C1(=CC=CC=C1)[Mg]Br
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1400 ml | C(C)OCC | C4H10O
product | (±) 2-(α-hydroxybenzyl)furan | 240 g | OC(C1=CC=CC=C1)C=1OC=CC1 | C11H10O2
